US09120749B2
(6-bromo-4-(6-(3-hydroxypyrrolidin-1-yl)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with 1-(5-aminopyridin-2-yl)pyrrolidin-3-ol (269 mg, 1.5 mmol) to afford the desired product (234 mg, 51%) as a yellow solid: ESI MS m/z 453 [C22H21BrN4O2+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 1-(5-aminopyridin-2-yl)pyrrolidin-3-ol | 1.5 mmol, 269 mg | NC=1C=CC(=NC1)N1CC(CC1)O | C9H13N3O
product | (6-bromo-4-(6-(3-hydroxypyrrolidin-1-yl)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 234 mg, 51% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)N1CC(CC1)O | C22H21BrN4O2
